Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][CH2:9][c:10]1[n:11][cH:12][c:13]([CH:14]=[O:15])[s:16]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][CH2:9][c:10]1[n:11][cH:12][c:13]([CH2:14][OH:15])[s:16]1,[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][CH2:9][c:10]1[n:11][cH:12][c:13]([CH:14]=[O:15])[s:16]1.[BH4-:301].[CH3][OH1:302]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][CH2:9][c:10]1[n:11][cH:12][c:13]([CH2:14][OH:15])[s:16]1,carbonyl_reduction,"[([301, 301.1], 14), ([14, 15], 15), (15, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][NH:3][CH2:4][CH2:5]Cl.[NH2:7][c:8]1[cH:9][cH:10][cH:11][c:12]2[c:13]1[CH2:14][CH2:15][CH2:16][CH2:17]2>>[CH2:1]1[CH2:2][NH:3][CH2:4][CH2:5][N:7]1[c:8]1[cH:9][cH:10][cH:11][c:12]2[c:13]1[CH2:14][CH2:15][CH2:16][CH2:17]2,[NH2:7][c:8]1[cH:9][cH:10][cH:11][c:12]2[c:13]1[CH2:14][CH2:15][CH2:16][CH2:17]2.[Cl:101][CH2:1][CH2:2][NH:3][CH2:4][CH2:5][Cl:102]>>[CH2:1]1[CH2:2][NH:3][CH2:4][CH2:5][N:7]1[c:8]1[cH:9][cH:10][cH:11][c:12]2[c:13]1[CH2:14][CH2:15][CH2:16][CH2:17]2,double_SN2,"[(7, 1), ([1, 101], 101), (101, 7.1), ([7.1, 7], 7), (7, 5), ([5, 102], 102), (102, 7.1), ([7.1, 7], 7)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1.[CH3:9][C:10](=[O:11])[NH:12][CH2:13][CH2:14][CH2:15][S:16](=[O:17])(=[O:18])[O:19][CH2:20][C:21]([CH3:22])([CH3:23])[C@@H:24]([O:25][Si:26]([CH3:27])([CH3:28])[C:29]([CH3:30])([CH3:31])[CH3:32])[C:33](=[O:34])[OH:35]>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1)[O:35][C:33]([C@@H:24]([C:21]([CH2:20][O:19][S:16]([CH2:15][CH2:14][CH2:13][NH:12][C:10]([CH3:9])=[O:11])(=[O:17])=[O:18])([CH3:22])[CH3:23])[O:25][Si:26]([CH3:27])([CH3:28])[C:29]([CH3:30])([CH3:31])[CH3:32])=[O:34],[CH3:9][C:10](=[O:11])[NH:12][CH2:13][CH2:14][CH2:15][S:16](=[O:17])(=[O:18])[O:19][CH2:20][C:21]([CH3:22])([CH3:23])[C@@H:24]([O:25][Si:26]([CH3:27])([CH3:28])[C:29]([CH3:30])([CH3:31])[CH3:32])[C:33](=[O:34])[OH:35].[Br:101][CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1)[O:35][C:33]([C@@H:24]([C:21]([CH2:20][O:19][S:16]([CH2:15][CH2:14][CH2:13][NH:12][C:10]([CH3:9])=[O:11])(=[O:17])=[O:18])([CH3:22])[CH3:23])[O:25][Si:26]([CH3:27])([CH3:28])[C:29]([CH3:30])([CH3:31])[CH3:32])=[O:34],SN2_alcohol(thiol),"[(301, 35.1), ([35.1, 35], 35), (35, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH2:2][CH3:3])(=[O:4])=[O:5].[CH3:6][C:7]1([CH3:8])[CH2:9][CH:10]([c:11]2[cH:12][cH:13][cH:14][c:15]([NH2:16])[cH:17]2)[NH:18][c:19]2[cH:20][cH:21][c:22]([Cl:23])[cH:24][c:25]21>>[S:1]([CH2:2][CH3:3])(=[O:4])(=[O:5])[NH:16][c:15]1[cH:14][cH:13][cH:12][c:11]([CH:10]2[CH2:9][C:7]([CH3:6])([CH3:8])[c:25]3[c:19]([cH:20][cH:21][c:22]([Cl:23])[cH:24]3)[NH:18]2)[cH:17]1,[CH3:6][C:7]1([CH3:8])[CH2:9][CH:10]([c:11]2[cH:12][cH:13][cH:14][c:15]([NH2:16])[cH:17]2)[NH:18][c:19]2[cH:20][cH:21][c:22]([Cl:23])[cH:24][c:25]21.[Cl:101][S:1]([CH2:2][CH3:3])(=[O:4])=[O:5]>>[S:1]([CH2:2][CH3:3])(=[O:4])(=[O:5])[NH:16][c:15]1[cH:14][cH:13][cH:12][c:11]([CH:10]2[CH2:9][C:7]([CH3:6])([CH3:8])[c:25]3[c:19]([cH:20][cH:21][c:22]([Cl:23])[cH:24]3)[NH:18]2)[cH:17]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 1), ([1, 4], 4), (4, [4, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([NH:4][C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][s:11][cH:12]1.[CH3:13][C:14]([CH3:15])([CH3:16])[O:17][C:18](=[O:19])[N:20]1[CH2:21][CH2:22][CH:23]([NH2:24])[CH2:25][CH2:26]1>>[CH2:1]([c:2]1[c:3]([NH:4][C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][s:11][cH:12]1)[NH:24][CH:23]1[CH2:22][CH2:21][N:20]([C:18]([O:17][C:14]([CH3:13])([CH3:15])[CH3:16])=[O:19])[CH2:26][CH2:25]1,[CH3:13][C:14]([CH3:15])([CH3:16])[O:17][C:18](=[O:19])[N:20]1[CH2:21][CH2:22][CH:23]([NH2:24])[CH2:25][CH2:26]1.[O:101]=[CH:1][c:2]1[c:3]([NH:4][C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][s:11][cH:12]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[c:3]([NH:4][C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][s:11][cH:12]1)[NH:24][CH:23]1[CH2:22][CH2:21][N:20]([C:18]([O:17][C:14]([CH3:13])([CH3:15])[CH3:16])=[O:19])[CH2:26][CH2:25]1,reductive_amination,"[(24, 1), ([1, 101], 301), (101, 24.1), ([24.1, 24], 24), (24, [24, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 24], 24)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
